Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: ORTHOPAEDICS
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
left hip pain
 
Major Surgical or Invasive Procedure:
Open reduction internal fixation of the left periprosthetic hip 
fracture 

 
History of Present Illness:
___ w/ hx of HTN presenting s/p mechanical fall after
tripping over purse w/ L hemiarthroplasty periprosthetic fx.
Patient has a history of left hip hemiarthroplasty at ___ 
___
a few years ago. As of late, she has been having vision issues
due to a recent ophthalmologic procedure and was unable to see
her purse when she tripped and fell. There is no head strike or
loss of consciousness. She is not anticoagulated.
She was seen at the outside hospital and had imaging done that
showed a left periprostatic fracture. Orthopedics was consulted
at the outside hospital recommended transfer to tertiary care
setting. Patient was transferred to the ED for further
evaluation. She denies any numbness or tingling. She has no 
other
complaints at this time.

 
Past Medical History:
HTN, detached retina chronic back pain    
 
Social History:
___
Family History:
nc
 
Physical Exam:
Vitals: AVSS
General: Well-appearing, breathing comfortably
LLE: Dressing changed this am, incision c/d/i. 
fires TA/gastroc, EPL, FPL
SILT spn/dpn/s/s/t
Foot WWP, soft compartments

 
Brief Hospital Course:
The patient presented to the emergency department and was 
evaluated by the orthopedic surgery team. The patient was found 
to have a left periprosthetic hip fracture and was admitted to 
the orthopedic surgery service. The patient was taken to the 
operating room on ___ for an open reduction internal fixation 
of her left periprosthetic hip fracture which the patient 
tolerated well. For full details of the procedure please see the 
separately dictated operative report. The patient was taken from 
the OR to the PACU in stable condition and after satisfactory 
recovery from anesthesia was transferred to the floor. The 
patient was initially given IV fluids and IV pain medications, 
and progressed to a regular diet and oral medications. The 
patient was given ___ antibiotics and anticoagulation 
per routine. The patient's home medications were continued 
throughout this hospitalization. The patient worked with ___ who 
determined that discharge to rehab was appropriate. The 
___ hospital course was otherwise unremarkable.

At the time of discharge the patient's pain was well controlled 
with oral medications, incisions were clean/dry/intact, and the 
patient was voiding/moving bowels spontaneously. A thorough 
discussion was had with the patient regarding the diagnosis and 
expected post-discharge course including reasons to call the 
office or return to the hospital, and all questions were 
answered. The patient was also given written instructions 
concerning precautionary instructions and the appropriate 
follow-up care. The patient expressed readiness for discharge.

 
Medications on Admission:
HydrOXYzine 25 mg PO BID  
Lisinopril 20 mg PO DAILY  
Oxybutynin 5 mg PO BID  
Polymyxin B -Trimethoprim Ophth Soln 1 DROP BOTH EYES QID  
PrednisoLONE Acetate 1% Ophth. Susp. 1 DROP BOTH EYES QID  

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H 
RX *acetaminophen [8 HOUR PAIN RELIEVER] 650 mg 1 tablet(s) by 
mouth every 6 hours Disp #*100 Tablet Refills:*0 
2.  Docusate Sodium 100 mg PO BID 
hold for loose stools 
RX *docusate sodium [Colace] 100 mg 1 capsule(s) by mouth twice 
daily Disp #*80 Capsule Refills:*0 
3.  Enoxaparin Sodium 40 mg SC QHS 
RX *enoxaparin 40 mg/0.4 mL 1 syringe subc daily at night Disp 
#*28 Syringe Refills:*0 
4.  OxyCODONE (Immediate Release) 2.5-5 mg PO Q4H:PRN pain 
don't drink/drive/operate heavy machinery while taking 
RX *oxycodone 5 mg 0.5 to 1 tablet(s) by mouth every 4 hours as 
needed Disp #*60 Tablet Refills:*0 
5.  Senna 8.6 mg PO DAILY 
hold for loose stools 
RX *sennosides [Senna Lax] 8.6 mg 1 tablet by mouth daily Disp 
#*80 Tablet Refills:*0 
6.  HydrOXYzine 25 mg PO BID  
7.  Lisinopril 20 mg PO DAILY  
8.  Oxybutynin 5 mg PO BID  
9.  Polymyxin B -Trimethoprim Ophth Soln 1 DROP BOTH EYES QID  
10.  PrednisoLONE Acetate 1% Ophth. Susp. 1 DROP BOTH EYES QID  

 
Discharge Disposition:
Extended Care
 
Facility:
___ 
___)
 
Discharge Diagnosis:
left periprosthetic hip fracture 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.

 
Discharge Instructions:
INSTRUCTIONS AFTER ORTHOPAEDIC SURGERY:

- You were in the hospital for orthopedic surgery. It is normal 
to feel tired or "washed out" after surgery, and this feeling 
should improve over the first few days to week. 
- Resume your regular activities as tolerated, but please follow 
your weight bearing precautions strictly at all times.

ACTIVITY AND WEIGHT BEARING:
- partial weight bearing left lower extremity

MEDICATIONS:
- Please take all medications as prescribed by your physicians 
at discharge.
- Continue all home medications unless specifically instructed 
to stop by your surgeon.
- Do not drink alcohol, drive a motor vehicle, or operate 
machinery while taking narcotic pain relievers.
- Narcotic pain relievers can cause constipation, so you should 
drink eight 8oz glasses of water daily and take a stool softener 
(colace) to prevent this side effect.

ANTICOAGULATION:
- Please take lovenox daily for 4 weeks

WOUND CARE:
- You may shower. No baths or swimming for at least 4 weeks.
- Any stitches or staples that need to be removed will be taken 
out at your 2-week follow up appointment.
- Please remain in your dressing and do not change unless it is 
visibly soaked or falling off.

Physical Therapy:
Activity:   Activity:  Out of bed w/ assist
 Right lower extremity:  Full weight bearing
 Left lower extremity:  Partial weight bearing
Encourage turning, deep breathing and coughing qhour when awake.

Treatments Frequency:
-per f/u in clinic
 
Followup Instructions:
___